US07534893B2
4-(Bromomethyl)-2-naphthalenecarbonitrile
To a solution of 4-(hydroxymethyl)-2-naphthalenecarbonitrile (200 mg) in dry DCE (5 mL), CBr4 (542.8 mg) and (Ph)3P were added, the resulting mixture was stirred at r.t. for 40 min and then quenched with 40 mL of water. The aqueous phase washed with DCM (3×40 mL). The combined organic extracts were dried, concentrated, and purified by flash chromatography (CH/AcOEt from 8:2 to 1:1) to give the title compound (216 mg) as a white foam.

reactant | 4-(hydroxymethyl)-2-naphthalenecarbonitrile | 200 mg | OCC1=CC(=CC2=CC=CC=C12)C#N | C12H9NO
reactant | CBr4 | 542.8 mg | C(Br)(Br)(Br)Br | CBr4
reactant | (Ph)3P | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 4-(Bromomethyl)-2-naphthalenecarbonitrile | 216 mg | BrCC1=CC(=CC2=CC=CC=C12)C#N | C12H8BrN
